### PR TITLE
[Merged by Bors] - feat(CategoryTheory): finite-product preserving presheaves are sheaves for extensive presieves

### PR DESCRIPTION
**Pull request by dagurtomas**
We prove that finite-product preserving presheaves on extensive categories are sheaves for `extensive` presieves.

-  [x] depends on: #7804 

Co-authored-by: Riccardo Brasca @riccardobrasca [riccardo.brasca@gmail.com](mailto:riccardo.brasca@gmail.com)
Co-authored-by: Filippo A E Nuccio @faenuccio [filippo.nuccio@univ-st-etienne.fr](mailto:filippo.nuccio@univ-st-etienne.fr)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by joelriou — APPROVED** [review]

**Comment by dagurtomas** [comment]
Would you like me to change #7804 as well or do you want to merge this all together and close #7804?

**Comment by riccardobrasca** [comment]
This now need a `merge master`.

File: Mathlib/CategoryTheory/Sites/RegularExtensive.lean [hunk 1]
```diff
@@ -368,4 +377,87 @@ lemma isSheaf_of_projective (F : Cᵒᵖ ⥤ Type (max u v)) [Preregular C] [∀
...
+variable [FinitaryPreExtensive C] {C}
+
+/-- A presieve is *extensive* if it is finite and its arrows induce an isomorphism from the
+coproduct to the target. -/
+class Presieve.extensive [HasFiniteCoproducts C] {X : C} (R : Presieve X) :
+    Prop where
+  /-- `R` consists of a finite collection of arrows that together induce an isomorphism from the
+  coproduct of their sources. -/
+  arrows_sigma_desc_iso : ∃ (α : Type) (_ : Fintype α) (Z : α → C) (π : (a : α) → (Z a ⟶ X)),
+    R = Presieve.ofArrows Z π ∧ IsIso (Sigma.desc π)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/RegularExtensive.lean:391]: The `IsIso` condition should be stated in terms of a colimit cofan. This should also allow dropping the assumption `[HasFiniteCoproducts C]`. This may require some changes in the code below, but otherwise the PR looks good to me.

**Review by joelriou — APPROVED** [review]

File: Mathlib/CategoryTheory/Sites/RegularExtensive.lean (hunk 1 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Sites/RegularExtensive.lean]: Done. I also added a todo to use general colimit API in the definition of extensive coverage, but I'll do this in a separate PR as that requires some refactoring in other files, such as the effective epi one.

File: Mathlib/CategoryTheory/Sites/RegularExtensive.lean [hunk 2]
```diff
@@ -256,4 +267,83 @@ lemma isSheaf_of_projective (F : Cᵒᵖ ⥤ Type (max u v)) [Preregular C] [∀
...
+
+variable [FinitaryPreExtensive C] {C}
+
+/-- A presieve is *extensive* if it is finite and its arrows induce an isomorphism from the
+coproduct to the target. -/
+class Presieve.extensive {X : C} (R : Presieve X) :
+    Prop where
+  /-- `R` consists of a finite collection of arrows that together induce an isomorphism from the
+  coproduct of their sources. -/
+  arrows_sigma_desc_iso : ∃ (α : Type) (_ : Fintype α) (Z : α → C) (π : (a : α) → (Z a ⟶ X)),
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/RegularExtensive.lean:280]:
```suggestion
  arrows_nonempty_isColimit : ∃ (α : Type) (_ : Fintype α) (Z : α → C) (π : (a : α) → (Z a ⟶ X)),
```

File: Mathlib/CategoryTheory/Sites/RegularExtensive.lean [hunk 3]
```diff
@@ -256,4 +267,83 @@ lemma isSheaf_of_projective (F : Cᵒᵖ ⥤ Type (max u v)) [Preregular C] [∀
...
+    R = Presieve.ofArrows Z π ∧ Nonempty (IsColimit (Cofan.mk X π))
+
+instance {X : C} (S : Presieve X) [S.extensive] : S.hasPullbacks where
+  has_pullbacks := by
+    obtain ⟨_, _, _, _, hS, ⟨hc⟩⟩ := Presieve.extensive.arrows_sigma_desc_iso (R := S)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/RegularExtensive.lean:285]:
```suggestion
    obtain ⟨_, _, _, _, rfl, ⟨hc⟩⟩ := Presieve.extensive.arrows_sigma_desc_iso (R := S)
```

File: Mathlib/CategoryTheory/Sites/RegularExtensive.lean [hunk 4]
```diff
@@ -256,4 +267,83 @@ lemma isSheaf_of_projective (F : Cᵒᵖ ⥤ Type (max u v)) [Preregular C] [∀
...
+
+open Presieve Opposite
+
+/--
+A finite product preserving presheaf is a sheaf for the extensive topology on a category which is
+`FinitaryPreExtensive`.
+-/
+theorem isSheafFor_extensive_of_preservesFiniteProducts {X : C} (S : Presieve X) [S.extensive]
+    (F : Cᵒᵖ ⥤ Type max u v) [PreservesFiniteProducts F] : S.IsSheafFor F  := by
+  obtain ⟨_, _, Z, π, hS, ⟨hc⟩⟩ := extensive.arrows_sigma_desc_iso (R := S)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/RegularExtensive.lean:303]:
```suggestion
  obtain ⟨_, _, Z, π, rfl, ⟨hc⟩⟩ := extensive.arrows_sigma_desc_iso (R := S)
```

**Review by joelriou — APPROVED** [review]
It looks good to me.

bors d+
